M7 (net9 VB2 VIN1 VDD) pmos4
M4 (VOUT1 net17 net18 VDD) pmos4
M3 (VOUT1 net16 VDD VDD) pmos4
M2 (net16 net16 VDD VDD) pmos4
M1 (IB1 net33 VDD VDD) pmos4
M0 (net18 net34 VDD VDD) pmos4
R1 (net17 VOUT1) resistor
R0 (net34 net33) resistor
C1 (net17 VIN1) capacitor
C0 (net18 VSS) capacitor
M9 (net9 net9 VSS VSS) nmos4
M8 (VOUT1 net9 VSS VSS) nmos4
M6 (VOUT1 net17 VSS VSS) nmos4
M5 (net16 VB1 VIN1 VSS) nmos4